US05200110
In 75 cm3 (1.0 mol) of SOCl2, 128 g (0.52 mol) of 4-(trans-4'-propylcyclohexyl) benzoic acid was refluxed for 3 hours. The excess SOCl2 was distilled off under a reduced pressure and the residue was distilled under reduced pressure (158° C./3.0 mmHg) to yield 133 g (0.50 mol) of 4-(trans-4'-propylcyclohexyl) benzoic acid chloride.

reactant | SOCl2 | 1.0 mol, 75 cm3 | O=S(Cl)Cl | Cl2OS
reactant | 4-(trans-4'-propylcyclohexyl) benzoic acid | 0.52 mol, 128 g | C(CC)[C@@H]1CC[C@H](CC1)C1=CC=C(C(=O)O)C=C1 | C16H22O2
product | 4-(trans-4'-propylcyclohexyl) benzoic acid chloride | 0.50 mol, 133 g | C(CC)[C@@H]1CC[C@H](CC1)C1=CC=C(C(=O)Cl)C=C1 | C16H21ClO
